Name:  ___           Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Zocor
 
Attending: ___
 
Chief Complaint:
exertional dyspnea
 
Major Surgical or Invasive Procedure:
Cardiac catheterization ___

 
History of Present Illness:
___ year old man with known CAD s/p MI with ___ 2 to RCA and 
LAD ___ and ___ respectively) , ischemic CM, systolic CHF, 
hypertension, prior PE, depression who was recently admitted 
with acute on chronic systolic CHF on ___ at ___, 
who re-presented to ___ on ___ with dyspnea. 
During his prior hospitalization, he underwent Lexiscan 
myocardial perfusion studies which showed fixed distal septal 
anteroapical defect with LVEF 23%.
Of note, the ___ medical care has been complicated by 
noncompliance ___ difficult socioenecomic situation at home. He 
initially contacted his outpatient cardiologist 2 days PTA for 
dyspnea who referred him to the ED. He reports that he is 
entirely independent and quite physically active at home, but 
became so dyspneic that he was severely limited in his daily 
activities. He went to ___ but then refused to be 
admitted. EMS was called to his home for worsening dyspnea and 
he was intubated in the field after he was unable to tolerate 
BiPAP and subsequently transferred to the CCU.
At ___, initial CXR showed pulmonary edema. Initial 
labs showed minimal tropinenemia (Trop I) from 0.022, 0.0350 and 
then 0.034. Na 144, Cr 1.3. BNP 1669. Hgb/Hct ___. He was 
diuresed with IV Lasix 40 mg boluses and extubated quickly on 
___. He underwent cardiac catheterization there and was 
reportedly found to have 3VD-CAD for which is referred for LAD 
and OM stenting. He has been asymptomatic with regards to chest 
pain and is NPO in anticipation for planned PCI.
Of note, the patient was placed on Zosyn briefly while at 
___ for treatment of PNA; CXR there only showed 
some atelectasis and given quick improvement of his respiratory 
status, the Zosyn was d/c'd. The patient endorses a mild 
intermittent cough currently. He reports no changes with his 
weight recently, no BLE edema, and denies any PND/orthopnea and 
chest pain/pressure.
Vitals prior to transfer were Afebrile, 145/72, HR 79 SR, 94% on 
room air. Discharge weight 74.7 kg. He received IV Lasix 40 mg x 
1 prior to transfer to ___.
On the floor, initial VS 98.7, 145/76, 93, 18, 93% on RA.
Review of systems:
(+) Per HPI
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies headache, sinus tenderness, rhinorrhea or 
congestion. Denies cough, shortness of breath. Denies chest pain 
or tightness, palpitations. Denies nausea, vomiting, diarrhea, 
constipation or abdominal pain. No recent change in bowel or 
bladder habits. No dysuria. Denies arthralgias or myalgias. 
 
Past Medical History:
1. Hypertension.
2. HLD
3. Depression
4. H/o MI in ___ and ___ with DES to RCA and LAD. Myocardial 
perfusion studies in ___ showed LVEF 23%.
5. Ischemic cardiomyopathy
6. H/o PE 
 
Social History:
___
Family History:
Father deceased at ___, unknown cause. Mother deceased at ___ of 
sudden death. 3 sisters passed from cancer. 
 
Physical Exam:
ADMISSION
Vitals: 98.7, 145/76, 93, 18, 93% on RA
___: well-appearing pleasant elderly male in NAD, sitting up 
in bed eating dinner
HEENT: MMM, NCAT, EOMI, anicteric sclera
Neck: Supple, JVP not elevated, no LAD
CV: RRR, nml S1 and S2, no appreciable m/r/g
Lungs: CTAB, no w/r/r, no labored respirations.
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding
GU: deferred
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema. TR band present over R radial.
Neuro: AOx3, moving all extremities spontaneously. 

DISCHARGE
Vitals: 98.1 ___ 18 96RA
Tele: a few PVCs, HR ___ sinus
Last 8 hours I/O: not recorded
Last 24 hours I/O: 300/400+
Weight on admission: 68.2
Today's weight: 68.4
___: elderly man in NAD
Neck: JVP 7cm
Lungs: CTAB no wheezes or crackles
CV: RRR no murmurs
Abdomen: NABS, NTND
Ext: no edema 
 
Pertinent Results:
ADMISSION
___ 06:15AM BLOOD WBC-8.4 RBC-3.95* Hgb-12.4* Hct-36.5* 
MCV-92 MCH-31.4 MCHC-34.0 RDW-12.6 RDWSD-42.4 Plt ___
___ 06:15AM BLOOD ___ PTT-30.5 ___
___ 06:15AM BLOOD Glucose-103* UreaN-25* Creat-1.0 Na-142 
K-4.4 Cl-109* HCO3-24 AnGap-13
___ 06:15AM BLOOD cTropnT-0.07*
___ 06:15AM BLOOD Calcium-8.6 Phos-2.8 Mg-2.0

Cath report ___
-60% restenosis in mid LAD, TIMI flow 2 --> intervention 
performed with final stenosis of 0%
-80% stent restenosis of ___ marginal upper pole of Cx, timi 
flow of 3 --> intervention performed on ___ marginal with final 
stenosis of 0%; 90% distal OM2 stenosis that supplied small 
territory
-Successful PCI of LAD/OM with ___

___ ___
The left atrial volume index is severely increased. There is 
mild symmetric left ventricular hypertrophy. The left 
ventricular cavity is moderately dilated. Overall left 
ventricular systolic function is severely depressed (LVEF= 25 %) 
secondary to extensive akinesis of the apex and anterior septum, 
with hypokinesis of the anterior free wall and basal inferior 
free wall. Right ventricular chamber size and free wall motion 
are normal. The aortic valve leaflets (3) are mildly thickened 
but aortic stenosis is not present. Trace aortic regurgitation 
is seen. The mitral valve leaflets are mildly thickened. Mild 
(1+) mitral regurgitation is seen. The estimated pulmonary 
artery systolic pressure is normal. There is no pericardial 
effusion.

Compared with the report of the prior study (images unavailable 
for review) of ___, the left ventricular ejection fraction 
remains severely depressed.  

NO DISCHARGE LABS
 
Brief Hospital Course:
___ year old man with known CAD s/p ___ 2 to RCA/LAD, ischemic 
CM (LVEF 23%), HTN, and depression transferred from ___ 
___ for PCI for 3vCAD.

#NSTEMI: elevated troponin and evidence of 3vCAD on recent 
cardiac cath.  Transferred to ___ for intervention, where 2 
DES were placced to LAD and Cx.  Post-cath Mr. ___ felt 
comfortable and chest pain free.  Breathing was back to 
baseline.  We continued his Plavix, Lipitor, and baby Aspirin 
(with dosage changes below).

#Acute on chronic systolic congestive heart failure. Patient 
currently appears euvolemic. Likely triggered by either ischemia 
e/b PCI on cath, or medication noncompliance per his outpatient 
PCP/cardiologist.  Patient had been receiving daily IV Lasix 40 
mg at OSH but presented to ___ euvolemic. Now s/p cath and 
euvolemic on exam.  Home diuretic of po Lasix was continued and 
remained euvolemic on exam for remainder of hospitalization.

#HTN: continued lisinopril, coreg with dosage changes below. 

#Depression. continued home Paxil. 

#Discharge planning: Mr. ___ had difficulty finding a ride 
home.  His daughter was unable to come pick him up and he lives 
too far away for a taxi voucher.  He could not afford a chair 
car.  Therefore after speaking with case management, we arranged 
him to be taken home via chair car with ___ being billed for 
the trip.  Also, we discharged him with both short-term and 
long-term prescriptions for his medications, as he would not be 
able to afford long-term prescriptions until ___.  Many thanks to social work who was able to provide him 
with some cash to help him afford his medications.

TRANSITIONAL ISSUES
[] Medication changes: Coreg 12.5 mg po bid (from 6.25) due to 
hypertension; increased atorvastatin to 80 mg po daily (from 40 
mg) given CAD; Aspirin 81 mg daily (from 325 mg)
[] Follow up appointment with Dr. ___
[] Consider adding spironolactone to home diuretic regimen as 
his EF is reduced

***Discharge weight 68.4 kg***
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 325 mg PO DAILY 
2. Atorvastatin 40 mg PO QPM 
3. Carvedilol 6.25 mg PO BID 
4. Clopidogrel 75 mg PO DAILY 
5. Heparin 5000 UNIT SC TID 
6. Lisinopril 40 mg PO DAILY 
7. Paroxetine 20 mg PO DAILY 
8. Furosemide 40 mg PO DAILY 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*2
2. Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*2
3. Carvedilol 12.5 mg PO BID 
RX *carvedilol 12.5 mg 1 tablet(s) by mouth once a day Disp #*60 
Tablet Refills:*2
4. Clopidogrel 75 mg PO DAILY 
RX *clopidogrel 75 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*2
5. Lisinopril 40 mg PO DAILY 
6. Paroxetine 20 mg PO DAILY 
7. Furosemide 40 mg PO DAILY 
RX *furosemide 40 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*2

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
NSTEMI
Acute on chronic systolic congestive heart failure

Secondary:
Hypertension
Depression

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___,

You were hospitalized with shortness of breath and then 
transferred to ___ for a procedure called cardiac 
catheterization.  We found some narrowing of 2 of your coronary 
arteries and placed stents in them.  Your breathing was 
comfortable after the procedure and you were chest pain free, so 
you were discharged home.

It was a pleasure taking care of you!
Your ___ team

Weigh yourself every morning, call MD if weight goes up more 
than 3 lbs.
 
Followup Instructions:
___